US06004977
5-Hydroxy-2-(4-pyridinylamino)isoindole-1,3-dione hydrochloride
A solution of 5-acetoxyphthalic anhydride (3.03 g), 4-hydrazinopyridine hydrochloride (2.04 g) and glacial acetic acid (15 ml) was heated under reflux, under nitrogen, for 4 hrs, with stirring. The reaction mixture was cooled to ambient temperature, the precipitate was collected, washed with water and dried at 60° C. under vacuum overnight. Trituration with hot absolute ethanol gave 2.3 g (56%) of product, mp >260° C.

reactant | 5-acetoxyphthalic anhydride | 3.03 g | C(C)(=O)OC1=CC=C2C(C(=O)OC2=O)=C1 | C10H6O5
reactant | 4-hydrazinopyridine hydrochloride | 2.04 g | Cl.N(N)C1=CC=NC=C1
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-Hydroxy-2-(4-pyridinylamino)isoindole-1,3-dione hydrochloride | 2.3 g, 56% | Cl.OC=1C=C2C(N(C(C2=CC1)=O)NC1=CC=NC=C1)=O | InChI=1S/C13H9N3O3.ClH/c17-9-1-2-10-11(7-9)13(19)16(12(10)18)15-8-3-5-14-6-4-8;/h1-7,17H,(H,14,15);1H
